US07884110B2
Intermediate 1: 4-Chloro-2-(4-chloro-3-trifluoromethyl-benzenesulfonylamino)-benzoic acid
To a solution of Na2CO3 (11.7 g, 110.7 mmol) in water (50 mL) and 1,4-dioxane (50 mL) at 60° C. was added 2-amino-4-chloro-benzoic acid (5.0 g, 29.14 mmol) followed by 4-chloro-3-trifluoromethyl-benzenesulfonyl chloride (20.15 g, 72.48 mmol) in 3 portions and heated the resulting reaction mixture at 80° C. for 4 hours. 2N HCl Was added until the reaction mixture became acidic (pH=˜2) and obtained white solid was filtered, washed with water, dried under high vacuum to obtain title compound (7.8 g) in 65% yield. MS (ES) M+Na expected 436.0, found 435.8.

reactant | Na2CO3 | 110.7 mmol, 11.7 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 2-amino-4-chloro-benzoic acid | 29.14 mmol, 5.0 g | NC1=C(C(=O)O)C=CC(=C1)Cl | C7H6ClNO2
reactant | 4-chloro-3-trifluoromethyl-benzenesulfonyl chloride | 72.48 mmol, 20.15 g | ClC1=C(C=C(C=C1)S(=O)(=O)Cl)C(F)(F)F | C7H3Cl2F3O2S
reactant | HCl | 2N | Cl | ClH
solvent | water | 50 mL | O | H2O
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 4-Chloro-2-(4-chloro-3-trifluoromethyl-benzenesulfonylamino)-benzoic acid | 7.8 g, 65% yield | ClC1=CC(=C(C(=O)O)C=C1)NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C14H8Cl2F3NO4S
